US09126993B2
1-[(3S)-1-azabicyclo[2.2.2]oct-3-yl]-3-{2-[3-(prop-1-en-2-yl)phenyl]propan-2-yl}urea
To a suspension of (S)-(−)-3-aminoquinculidine dihydrochloride (120 mg, 0.603 mmol) and triethylamine (168 uL, 1.21 mmol) in THF (2 mL) at room temperature was added 3-isopropenyl-, -dimethylbenzyl-isocyanate (121 mg, 0.601 mmol). The reaction mixture was stirred for 18 hr and then washed with saturated aqueous NaHCO3. The organic phase was dried over Na2SO4 and concentrated. The crude material was purified on a combiflash (SiO2 cartridge, CHCl3 and 2N NH3 in MeOH) to afford the title compound (29 mg, 47%) as an off-white solid. 1H NMR (400 MHz, CD3OD) δ 7.51 (dt, J=2.5, 1.2 Hz, 1H), 7.41-7.14 (m, 3H), 5.32 (dd, J=1.6, 0.8 Hz, 1H), 5.06 (s, 1H), 3.74-3.60 (m, 1H), 3.31-3.29 (m, 2H), 3.19 (ddd, J=13.7, 9.5, 1.6 Hz, 1H), 2.88-2.50 (m, 4H), 2.37 (ddd, J=14.0, 4.9, 2.2 Hz, 1H), 2.14 (ddd, J=2.3, 1.8, 1.0 Hz, 3H), 1.81-1.63 (m, 4H), 1.62 (d, J=6.2 Hz, 6H), 1.55-1.38 (m, 1H) ppm. 13C NMR (100 MHz, CD3OD) δ 158.4, 148.4, 144.0, 141.3, 128.0, 124.1, 123.3, 121.9, 111.4, 55.7, 54.7, 46.7, 46.4, 46.0, 29.6, 29.4, 28.4, 26.1, 25.1, 21.0, 19.4 ppm. Purity: >96% UPLCMS (210 nm); retention time 0.81 min; (M+1) 329.5.

reactant | dihydrochloride | 0.603 mmol, 120 mg | C1(=C(C(=C(C(=C1F)F)F)N)F)N.Cl.Cl
reactant | triethylamine | 1.21 mmol, 168 uL | C(C)N(CC)CC | C6H15N
reactant | dimethylbenzyl-isocyanate | 0.601 mmol, 121 mg | CC(C1=CC=CC=C1)(C)N=C=O | C10H11NO
reactant | THF | 2 mL | C1CCOC1 | C4H8O
product | 1-[(3S)-1-azabicyclo[2.2.2]oct-3-yl]-3-{2-[3-(prop-1-en-2-yl)phenyl]propan-2-yl}urea | 29 mg, 47% | N12C[C@H](C(CC1)CC2)NC(=O)NC(C)(C)C2=CC(=CC=C2)C(=C)C | C20H29N3O
